2188-10-31 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2188-10-30**] 12:00 PM
   Pt went to cardiac cath after intubation on integrellin, fentanyl and
   versed.
   Found to have diffuse multi vessel disease, with severe mitral
   regurgitation and left circumflex coronary artery was stented. Pt
   required placement of IABP and starting of Dopamine.  IABP was held at
   1:1 throughout the night.
   Back in CCU pt
s swan was not working and PIVs were not able to be
   placed so pt had a left arterial line and a right IJ placed.
   EKG with new ST depressions in V2-V4
   Allergies:
   Iodine; Iodine Containing
   lips and tongue
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Zocor (Oral) (Simvastatin)
   Hives;
   Codeine
   Nausea/Vomiting
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Heparin Sodium - 700 units/hour
   Insulin - Regular - 2 units/hour
   Furosemide (Lasix) - 5 mg/hour
   Dopamine - 6 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2188-10-30**] 04:30 PM
   Flowsheet Data as of  [**2188-10-31**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 99 (1 - 123) bpm
   BP: 92/49(66) {74/28(35) - 142/62(102)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    PAP: (34 mmHg) / (25 mmHg)
   CVP 11
   SVO2 70
   UAS 113
   AS 110
   UAD 99
   AD 114
   Total In:
                                                                  1,738 mL
                                                                    606 mL
   PO:
                                      TF:
   IVF:
                                                                  1,528 mL
                                                                    326 mL
   Blood products:
   281 mL
   Total out:
                                                                  2,600 mL
                                                                    955 mL
   Urine:
                                                                  2,195 mL
                                                                    405 mL
   NG:
                                                                    205 mL
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                   -862 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 20 cmH2O
   Compliance: 39.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/43/122/25/2
   Ve: 9.7 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Gen: Intubated and sedated
   HEENT: JVPnot able to be evaluated
   CV: distant heart sounds, RR, normal S1, S2. No m/r/g.
   Chest: occasional crackles
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: Cool, edematous at thigh and sacrum
   Labs / Radiology
   239 K/uL
   9.4 g/dL
   78 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.5 mEq/L
   78 mg/dL
   97 mEq/L
   131 mEq/L
   26.4 %
   28.8 K/uL
        [image002.jpg]
                            [**2188-10-30**]  04:02 AM
                            [**2188-10-30**]  05:45 PM
                            [**2188-10-30**]  06:25 PM
                            [**2188-10-30**]  09:25 PM
                            [**2188-10-30**]  10:29 PM
                            [**2188-10-31**]  01:23 AM
                            [**2188-10-31**]  01:32 AM
                            [**2188-10-31**]  05:38 AM
                            [**2188-10-31**]  05:52 AM
   WBC
   18.0
   25.7
   28.8
   Hct
   29.2
   25.5
   24.6
   24.2
   26.4
   Plt
   233
   239
   239
   Cr
   1.5
   1.5
   TropT
   1.00
   2.57
   TCO2
   27
   28
   28
   28
   Glucose
   384
   328
   78
   Other labs: PT / PTT / INR:12.7/29.6/1.1, CK / CKMB /
   Troponin-T:139/22/2.57, Lactic Acid:1.0 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents x 2 transferred
   from OSH to [**Hospital1 19**] for cardiac catheterization in setting of NSTEMI, now
   s/p cath and requiring IABP, pressors and persistant ectopy
   .
   CARDIOGENIC SHOCK:
   - s/p stent to LCX, with resolved EKG findings. This morning developed
   recurrent EKG changes in LAD distribution
   - ? ischemic changes secondary to pressors, will try to wean as rapidly
   as possible.
   - Will repeat EKG in several hours to assess effect of pressor changes.
   - tolerating IABP well but ectopy making it difficult to assess and
   providing minimal support since PVCs come on so quickly that augmented
   beats are very short.  Unable to capture 1:2.
 will start lidocaine drip to hopefully suppress ventricular ectopy.
   Also removed nonfunctioning swan. Hopefully once ectopy is better
   controlled will get better support from IABP.
   - tolerating vent well, would be able to try SBT and extubation but pt
   unable to sit up secondary to IABP. Will need IABP removed before able
   to get extubated.
   - ASA, metoprolol, plavix, statin, and heparin gtt, now off integrillin
   - monitor on telemetry
   .
   EPISTAXIS: Pt with large amount of bloody fluid via OG tube and Hct
   dropping to 24.
   - Transfused 1 unit pRBC with increase in lasix drip dose, hct
   responded appropriately. Will monitor [**Hospital1 7**] Hct
   - ENT packed anterior nose for epistaxis, requested Staph coverage for
   5 days until packing removed (changed to Nafcillin from Keflex since
   unable to take PO).
   .
   VOLUME OVERLOAD: Intubated for urgent catch, continues to be fluid
   overloaded. Responding well to lasix drip.
   .
   ARRYTHMIA:  Pt continues to have a lot of ectopy making it difficult to
   evaluate her IABP settings.
   .
   DIABETES: Sugars poorly controlled given large steroid dose. Now well
   controlled given no more prednisone, will switch to insulin sliding
   scale.
   .
   ACUTE RENAL FAILURE: baseline Cr 1- 1.1 (per OSH records); currently
   stable at 1.5.  Likely from poor forward flow.
   - received mucomyst around cath. Putting out large amounts of urine to
   lasix.
   .
   IODINE DYE ALLERGY: premedicated with prednisone, now with secondary
   hyperglycemia and leukocytosis.
   .
   #. FEN: Follow and replete electrolytes. NPO. No IVF
   #. Access: PIV x 1, Right IJ, left A line, right IABP/swan.
   #. PPx: on heparin, IV PPI
   #. Code: FULL CODE
   #. Contact:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   Contact[**Name (NI) **] and updated yesterday.

2188-11-01 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2188-10-31**] 09:00 AM
 PA CATHETER - STOP [**2188-10-31**] 10:00 AM
   Maintained mostly sinus rhythm with occasional PVCs on lidocaine gtt.
   S: Intubated
   Tele:  Broke bigeminy at 1PM shortly after going from 1 to 2 mg/hr of
   lidocaine
   Allergies:
   Iodine; Iodine Containing
   lips and tongue
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Zocor (Oral) (Simvastatin)
   Hives;
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-11-1**] 12:30 AM
   Nafcillin - [**2188-11-1**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl - 75 mcg/hour
   Insulin - Regular - 2 units/hour
   Heparin Sodium - 1,300 units/hour
   Dopamine
 5.5 mcg/Kg/min
   Lidocaine - 2 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-1**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.4
   HR: 100 (98 - 121) bpm
   BP: 98/52(76) {60/32(55) - 119/78(100)} mmHg
   RR: 18 (17 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 10 (7 - 12)mmHg
   Total In:
                                                                  2,998 mL
                                                                    989 mL
   PO:
   TF:
   IVF:
                                                                  2,342 mL
                                                                    989 mL
   Blood products:
                                                                    656 mL
   Total out:
                                                                  4,345 mL
                                                                  1,015 mL
   Urine:
                                                                  3,745 mL
                                                                  1,015 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,347 mL
                                                                    -26 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 216 (216 - 216) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 35 cmH2O
   Plateau: 20 cmH2O
   SpO2: 98%
   ABG: 7.45/39/184//3
   Ve: 6.6 L/min
   PaO2 / FiO2: 460
   Physical Examination
   Gen: Intubated and sedated
   HEENT: JVP not able to be evaluated
   CV: distant heart sounds, RR, normal S1, S2. No m/r/g.
   Chest: occasional crackles
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: Warm, edematous at thigh and sacrum
   Labs / Radiology
   239 K/uL
   9.4 g/dL
   103 mg/dL
   1.5 mg/dL
   26 mEq/L
   3.7 mEq/L
   75 mg/dL
   102 mEq/L
   137 mEq/L
   27.0 %
   28.8 K/uL
        [image002.jpg]
                            [**2188-10-30**]  10:29 PM
                            [**2188-10-31**]  01:23 AM
                            [**2188-10-31**]  01:32 AM
                            [**2188-10-31**]  05:38 AM
                            [**2188-10-31**]  05:52 AM
                            [**2188-10-31**]  09:18 AM
                            [**2188-10-31**]  02:56 PM
                            [**2188-10-31**]  05:30 PM
                            [**2188-11-1**]  12:32 AM
                            [**2188-11-1**]  12:51 AM
   WBC
   28.8
   Hct
   24.2
   26.4
   24.8
   27.0
   Plt
   239
   Cr
   1.5
   TCO2
   28
   28
   28
   27
   29
   28
   Glucose
   78
   103
   Other labs: PT / PTT / INR:13.6/52.4/1.2, CK / CKMB /
   Troponin-T:236/13/2.57, Lactic Acid:0.9 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   UCX (-)
   CXR: tubes/lines/pump in appropriate position
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents x 2 transferred
   from OSH to [**Hospital1 19**] for cardiac catheterization in setting of NSTEMI, now
   s/p cath and requiring IABP, pressors and persistent ectopy
   .
   CARDIOGENIC SHOCK:  Patient s/p stent to LCX, with resolved EKG
   findings, later developed recurrent EKG changes in LAD distribution
   thought to be ischemic changes secondary to pressors.
   - Needs diuresis, which will require good renal perfusion, goal MAP
   >55; Lasix gtt with goal UOP >200 cc/hr for goal -2.5 L today.
   - Would like to wean off dopamine, which is a likely source of ectopy
   - Once off pressors, would wean off pump
   - Once off pump, does not need lidocaine.  Will attempt to wean
   lidocaine, but bigeminal rhythm does not allow pump to provide good
   augmentation
   - Monitor for s/s lidocaine toxicity: such as nystagmus, tremor, or
   evidence of seizure.
   - ASA, metoprolol, plavix, statin, and heparin gtt, now off integrillin
   - monitor on telemetry
   .
   RESPIRATORY FAILURE, INTUBATED:  Patient tolerating vent well, however
   ABG shows mild respiratory acidosis.  Will switch to pressure support
   today to allow patient to autoregulate pCO2.  Also with a mild A-A
   gradient that may be assisted with diuresis.  Else would consider
   increasing PEEP.  Patient with neet to sit up for extubation but pt
   unable to sit up secondary to IABP. Will need IABP removed before able
   to get extubated.
   .
   EPISTAXIS: Pt with large amount of bloody fluid via OG tube and Hct
   dropping to 24.  Goal Hct > 25.
   - Transfused 1 unit pRBC with increase in lasix drip dose, hct
   responded appropriately. Will monitor [**Hospital1 7**] Hct
   - ENT packed anterior nose for epistaxis, requested Staph coverage for
   5 days until packing removed (changed to Nafcillin from Keflex since
   unable to take PO).
   .
   VOLUME OVERLOAD: Intubated for urgent cath, continues to be fluid
   overloaded. Responding well to lasix drip.
   .
   ARRYTHMIA:  Pt continues to have a lot of ectopy making it difficult to
   evaluate her IABP settings.
   .
   DIABETES: Sugars poorly controlled given large steroid dose. Now well
   controlled given no more prednisone, will switch to insulin sliding
   scale.
   .
   ACUTE RENAL FAILURE: baseline Cr 1- 1.1 (per OSH records); currently
   stable at 1.5.  Likely from poor forward flow.
   - received mucomyst around cath. Putting out large amounts of urine to
   lasix.
   .
   IODINE DYE ALLERGY: premedicated with prednisone, now with secondary
   hyperglycemia and leukocytosis.
   .
   #. FEN: Follow and replete electrolytes. Will initiate tube feeds. No
   IVF
   #. Access: PIV x 1, Right IJ, left A line, right IABP/swan.
   #. PPx: on heparin, IV PPI
   #. Code: FULL CODE
   #. Contact:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular, Date inserted: [**2188-10-30**] Order date: [**10-31**] @ 0539
   12. Insulin 100 Units/100 ml NS @ 0.5-5 UNIT/HR IV DRIP INFUSION
   Fingersticks every hour  Order date: [**11-1**] @ 1244
   2. Aspirin 300 mg PR DAILY  Order date: [**10-31**] @ 0616
   13. Lidocaine 1 mg/min IV DRIP INFUSION Start: After completion of
   bolus dose Order date: [**10-31**] @ 1029
   3. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   Use only if patient is on mechanical ventilation.  Order date: [**10-30**] @
   1700
   14. Magnesium Sulfate 2 gm IV ONCE Duration: 1 Doses Order date: [**11-1**]
   @ 1236
   4. Ciprofloxacin 400 mg IV Q12H
   Start [**10-30**]  Order date: [**10-31**] @ 1033
   15. Midazolam 0.5-2 mg/hr IV DRIP TITRATE TO sedation
   Patient must have adequate airway support prior to administration of
   dose.  Order date: [**10-30**] @ 1114
   5. Clopidogrel 75 mg PO DAILY  Order date: [**10-30**] @ 0319
   16. Nafcillin 2 g IV Q6H
   x 4 days ([**Date range (1) 3627**])  Order date: [**10-31**] @ 0812
   6. DOPamine 5-10 mcg/kg/min IV DRIP TITRATE TO MAP >60  Order date:
   [**10-30**] @ 2212
   17. Pantoprazole 40 mg IV Q24H  Order date: [**10-31**] @ 0616
   7. Docusate Sodium 100 mg PO BID  Order date: [**10-30**] @ 0319
   18. Potassium Chloride 20 mEq / 50 ml SW IV 2X  Order date: [**11-1**] @
   0407
   8. Fentanyl Citrate 25-100 mcg/hr IV DRIP TITRATE TO sedation  Order
   date: [**10-30**] @ 1114
   19. Pravastatin 80 mg PO DAILY  Order date: [**10-30**] @ 0319
   9. Furosemide 5-20 mg/hr IV DRIP INFUSION
   goal UOP 200 cc/hr, hold for CVP < 8  Order date: [**10-31**] @ 1032
   20. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-30**] @ 0319
   10. Heparin IV per Weight-Based Dosing Guidelines
   Order date: [**10-30**] @ 1517
   21. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-30**] @ 0319
   11. Heparin (IABP) 3 ml/hr IV INFUSION
   For Intra-aortic Ballon Pump Administration Only  Order date: [**10-31**] @
   0946
   22. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**10-31**] @ 0539

2188-11-02 05:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Attempted to wean lidocaine, but limited by return of bigeminy.
   Dopamine weaned slightly, limited by MAP.  Lasix gtt, accidentally got
   40 mg/hr for possibly 12 hours due to incorrectly set pump.  No signs
   of lido toxicity (nystagmus, tremor, seizure).  Changed from AC to
   pressure support.  Tube feeds started.  On arousal from sedation,
   patient appeared angry.
   Allergies:
   Iodine; Iodine Containing
   lips and tongue
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Zocor (Oral) (Simvastatin)
   Hives;
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-11-2**] 12:15 AM
   Nafcillin - [**2188-11-2**] 02:10 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Insulin - Regular - 6 units/hour
   Heparin Sodium - 1,300 units/hour
   Lidocaine - 2 mg/min
   Dopamine - 4.5 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-1**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-2**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.2
   HR: 97 (97 - 109) bpm
   BP: 96/44(68) {78/32(62) - 107/68(85)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                  3,217 mL
                                                                    837 mL
   PO:
             TF:
                                                                    118 mL
                                                                    102 mL
   IVF:
                                                                  3,099 mL
                                                                    735 mL
   Blood products:
   Total out:
                                                                  4,560 mL
                                                                    720 mL
   Urine:
                                                                  4,480 mL
                                                                    720 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,343 mL
                                                                    117 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 596 (596 - 596) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   Compliance: 49.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.44/49/118/29/8
   Ve: 10.9 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Gen: Intubated and sedated, pupils minimally reactive, dialated to 8
   mm.  Moves all 4 extremities to command.
   HEENT: JVP not able to be evaluated
   CV: distant heart sounds, RR, normal S1, S2. No m/r/g.  Obscured by
   pump.
   Chest: occasional crackles Obscured by pump.
   Abd: Soft, NTND. No HSM or tenderness.
   Ext: Warm, edematous at thigh and sacrum.  Minimal bleeding at balloon
   pump site.
   Labs / Radiology
   Source: Line-a
                                     135
                               [image002.gif]
                                     96
                               [image002.gif]
                                     69
   [image004.gif]
   114
                                                                   AGap=12
   [image005.gif]
   3.5
                               [image002.gif]
                                     31
                               [image002.gif]
                                     1.6
   [image007.gif]
   CK: 340
   MB: Pnd
   Trop-T: Pnd
   Ca: 8.8 Mg: 2.1 P: 4.2
   Source: Line-a
   81
                                                                      12.7
                                                            [image007.gif]
                                     8.6
   [image004.gif]
   180
                 [image008.gif]
   [image004.gif]
                                    23.0
   [image007.gif]
   Source: [**Name (NI) 3628**]
   PT: 14.3
   PTT: 75.6
   INR: 1.2
                            [**2188-11-1**]  12:32 AM
                            [**2188-11-1**]  12:51 AM
                            [**2188-11-1**]  08:42 AM
                            [**2188-11-1**]  09:01 AM
                            [**2188-11-1**]  11:59 AM
                            [**2188-11-1**]  02:34 PM
                            [**2188-11-1**]  05:44 PM
                            [**2188-11-1**]  05:57 PM
                            [**2188-11-2**]  04:12 AM
                            [**2188-11-2**]  04:36 AM
   WBC
   14.0
   12.7
   Hct
   27.0
   26.5
   26.2
   23.0
   Plt
   191
   180
   Cr
   1.5
   1.5
   TCO2
   28
   30
   29
   31
   32
   34
   Glucose
   163
   152
   Other labs: PT / PTT / INR:14.3/75.6/1.2, CK / CKMB /
   Troponin-T:144/6/2.57, Lactic Acid:0.9 mmol/L, Ca++:9.0 mg/dL, Mg++:2.3
   mg/dL, PO4:3.6 mg/dL
   Micro: Urine NG
   CXR:
Intra-aortic ballon pump should be pulled back. Improved
   pulmonary vascular congestion.
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents x 2 transferred
   from OSH to [**Hospital1 19**] for cardiac catheterization in setting of NSTEMI, now
   s/p cath and requiring IABP, pressors and persistent ectopy
   .
   ARRYTHMIA:  No longer responding to lidocaine and PVCs block IABP
   function.
   - will d/c lidocaine today and start amiodorone.  Will give prednisone
   given iodine allergy and iodine moiety in amiodorone.
   - if not able to medically manage, would consider overdrive pacing.
   - Would like to wean off dopamine, which is a likely source of ectopy
   .
   CARDIOGENIC SHOCK:  Patient s/p stent to LCX, with resolved EKG
   findings, later developed recurrent EKG changes in LAD distribution
   thought to be ischemic changes secondary to pressors.
   - Needs diuresis, which will require good renal perfusion, goal MAP
   >55; Lasix gtt with goal UOP >200 cc/hr for goal -2.5 L today.
   - Once off pressors, would wean off pump
   - ASA, metoprolol, plavix, statin, and heparin gtt, s/p integrillin
   - monitor on telemetry
   .
   RESPIRATORY FAILURE, INTUBATED:  Patient tolerating vent well, however
   ABG shows mild respiratory acidosis.  This acidosis persisted on
   pressure support today to allow patient to autoregulate pCO2.  Also
   with a mild A-A gradient that may be assisted with diuresis.  Else
   would consider increasing PEEP.  Patient with neet to sit up for
   extubation but pt unable to sit up secondary to IABP. Will need IABP
   removed before able to get extubated.
   .
   EPISTAXIS: Pt with large amount of bloody fluid via OG tube and Hct
   dropping to 24.  Goal Hct > 25.
   - Transfused 1 unit pRBC with increase in lasix drip dose, hct
   responded appropriately but then fell again.  Will transfuse again 1 U
   today
   - ENT packed anterior nose for epistaxis, requested Staph coverage for
   5 days until packing removed (changed to Nafcillin from Keflex since
   unable to take PO).
   .
   VOLUME OVERLOAD: Intubated for urgent cath, continues to be fluid
   overloaded. Responded well to lasix drip.
   .
   DIABETES: Sugars poorly controlled given large steroid dose. Now well
   controlled given no more prednisone, will switch to insulin sliding
   scale.
   .
   ACUTE RENAL FAILURE: baseline Cr 1- 1.1 (per OSH records); currently
   stable at 1.5.  Likely from poor forward flow.
   - received mucomyst around cath. Putting out large amounts of urine to
   lasix.
   .
   IODINE DYE ALLERGY: premedicated with prednisone, now with secondary
   hyperglycemia and leukocytosis.
   .
   #. FEN: Follow and replete electrolytes. Will initiate tube feeds. No
   IVF
   #. Access: PIV x 1, Right IJ, left A line, right IABP/swan.
   #. PPx: on heparin, IV PPI
   #. Code: FULL CODE
   #. Contact:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   13. Insulin 100 Units/100 ml NS @ 0.5-5 UNIT/HR IV DRIP INFUSION
   Fingersticks every hour  Order date: [**11-1**] @ 1244
   2. Aspirin 300 mg PR DAILY  Order date: [**10-31**] @ 0616
   14. Lidocaine 1 mg/min IV DRIP INFUSION Start: After completion of
   bolus dose Order date: [**10-31**] @ 1029
   3. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   Use only if patient is on mechanical ventilation.  Order date: [**10-30**] @
   1700
   15. Magnesium Sulfate 2 gm IV ONCE Duration: 1 Doses Order date: [**11-1**]
   @ 1236
   4. Ciprofloxacin 400 mg IV Q12H
   Start [**10-30**]  Order date: [**10-31**] @ 1033
   16. Midazolam 0.5-2 mg/hr IV DRIP TITRATE TO sedation
   Patient must have adequate airway support prior to administration of
   dose.  Order date: [**10-30**] @ 1114
   5. Clopidogrel 75 mg PO DAILY  Order date: [**10-30**] @ 0319
   17. Nafcillin 2 g IV Q6H
   x 4 days ([**Date range (1) 3627**])  Order date: [**10-31**] @ 0812
   6. DOPamine 5-10 mcg/kg/min IV DRIP TITRATE TO MAP >60  Order date:
   [**10-30**] @ 2212
   18. Pantoprazole 40 mg IV Q24H  Order date: [**10-31**] @ 0616
   7. Docusate Sodium 100 mg PO BID  Order date: [**10-30**] @ 0319
   19. Potassium Chloride 20 mEq / 50 ml SW IV 2X  Order date: [**11-1**] @
   0407
   8. Fentanyl Citrate 25-100 mcg/hr IV DRIP TITRATE TO sedation  Order
   date: [**10-30**] @ 1114
   20. Potassium Chloride 60 mEq IV ONCE Duration: 1 Doses
   in 150 cc SW  Order date: [**11-2**] @ 0528
   9. Furosemide 5-20 mg/hr IV DRIP INFUSION
   goal UOP 200 cc/hr, hold for CVP < 8  Order date: [**10-31**] @ 1032
   21. Pravastatin 80 mg PO DAILY  Order date: [**10-30**] @ 0319
   10. Furosemide 40 mg IV ONCE Duration: 1 Doses Order date: [**11-2**] @ 0528
   11. Heparin IV per Weight-Based Dosing Guidelines
   Order date: [**10-30**] @ 1517
   12. Heparin (IABP) 3 ml/hr IV INFUSION
   For Intra-aortic Ballon Pump Administration Only  Order date: [**10-31**] @
   0946

2188-11-03 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2188-11-2**] 08:00 AM
   Started on Amiodarone once Lidocaine stopped working. By afternoon, was
   having mostly sinus beats.
   AGGRESIVELY diuresed with Lasix 20mg IV /hr and Diuril x 3.
   Allergies:
   Iodine; Iodine Containing
   lips and tongue
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Zocor (Oral) (Simvastatin)
   Hives;
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-11-2**] 12:15 AM
   Nafcillin - [**2188-11-2**] 08:06 PM
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Midazolam (Versed) - 2 mg/hour
   Heparin Sodium - 1,300 units/hour
   Dopamine - 2 mcg/Kg/min
   Insulin - Regular - 10 units/hour
   Fentanyl - 150 mcg/hour
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-2**] 08:30 AM
   Other medications:
   Flowsheet Data as of  [**2188-11-3**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 80 (74 - 112) bpm
   BP: 105/31(59) {73/29(54) - 135/76(95)} mmHg
   RR: 18 (17 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 9 (9 - 11)mmHg
   Total In:
                                                                  3,748 mL
                                                                    827 mL
   PO:
   TF:
                                                                    812 mL
                                                                    297 mL
   IVF:
                                                                  2,607 mL
                                                                    530 mL
   Blood products:
                                                                    269 mL
   Total out:
                                                                  4,200 mL
                                                                  2,280 mL
   Urine:
                                                                  4,200 mL
                                                                  2,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -452 mL
                                                                 -1,453 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 98%
   ABG: 7.45/51/121/29/10
   Ve: 10.4 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Labs / Radiology
   215 K/uL
   10.2 g/dL
   144 mg/dL
   1.7 mg/dL
   29 mEq/L
   3.7 mEq/L
   68 mg/dL
   96 mEq/L
   134 mEq/L
   27.4 %
   18.7 K/uL
        [image002.jpg]
                            [**2188-11-1**]  09:01 AM
                            [**2188-11-1**]  11:59 AM
                            [**2188-11-1**]  02:34 PM
                            [**2188-11-1**]  05:44 PM
                            [**2188-11-1**]  05:57 PM
                            [**2188-11-2**]  04:12 AM
                            [**2188-11-2**]  04:36 AM
                            [**2188-11-2**]  04:52 PM
                            [**2188-11-3**]  12:00 AM
                            [**2188-11-3**]  12:16 AM
   WBC
   12.7
   18.7
   Hct
   26.2
   23.0
   28.4
   27.4
   Plt
   180
   215
   Cr
   1.5
   1.6
   1.7
   TropT
   3.20
   TCO2
   30
   29
   31
   32
   34
   37
   Glucose
   152
   114
   144
   Other labs: PT / PTT / INR:14.3/70.3/1.2, CK / CKMB /
   Troponin-T:340/5/3.20, Lactic Acid:0.9 mmol/L, Ca++:8.8 mg/dL, Mg++:2.2
   mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents x 2 transferred
   from OSH to [**Hospital1 19**] for cardiac catheterization in setting of NSTEMI, now
   s/p cath and requiring IABP, pressors and persistent ectopy
   .
   ARRYTHMIA:  No longer responding to lidocaine and PVCs block IABP
   function.
   - will d/c lidocaine today and start amiodorone.  Will give prednisone
   given iodine allergy and iodine moiety in amiodorone.
   - if not able to medically manage, would consider overdrive pacing.
   - Would like to wean off dopamine, which is a likely source of ectopy
   .
   CARDIOGENIC SHOCK:  Patient s/p stent to LCX, with resolved EKG
   findings, later developed recurrent EKG changes in LAD distribution
   thought to be ischemic changes secondary to pressors.
   - Needs diuresis, which will require good renal perfusion, goal MAP
   >55; Lasix gtt with goal UOP >200 cc/hr for goal -2.5 L today.
   - Once off pressors, would wean off pump
   - ASA, metoprolol, plavix, statin, and heparin gtt, s/p integrillin
   - monitor on telemetry
   .
   RESPIRATORY FAILURE, INTUBATED:  Patient tolerating vent well, however
   ABG shows mild respiratory acidosis.  This acidosis persisted on
   pressure support today to allow patient to autoregulate pCO2.  Also
   with a mild A-A gradient that may be assisted with diuresis.  Else
   would consider increasing PEEP.  Patient with neet to sit up for
   extubation but pt unable to sit up secondary to IABP. Will need IABP
   removed before able to get extubated.
   .
   EPISTAXIS: Pt with large amount of bloody fluid via OG tube and Hct
   dropping to 24.  Goal Hct > 25.
   - Transfused 1 unit pRBC with increase in lasix drip dose, hct
   responded appropriately but then fell again.  Will transfuse again 1 U
   today
   - ENT packed anterior nose for epistaxis, requested Staph coverage for
   5 days until packing removed (changed to Nafcillin from Keflex since
   unable to take PO).
   .
   VOLUME OVERLOAD: Intubated for urgent cath, continues to be fluid
   overloaded. Responded well to lasix drip.
   .
   DIABETES: Sugars poorly controlled given large steroid dose. Now well
   controlled given no more prednisone, will switch to insulin sliding
   scale.
   .
   ACUTE RENAL FAILURE: baseline Cr 1- 1.1 (per OSH records); currently
   stable at 1.5.  Likely from poor forward flow.
   - received mucomyst around cath. Putting out large amounts of urine to
   lasix.
   .
   IODINE DYE ALLERGY: premedicated with prednisone, now with secondary
   hyperglycemia and leukocytosis.
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2188-11-3**] 04:03 AM 40 mL/hour
   Glycemic Control:  Insulin drip while on Prednisone
   Lines:
   IABP line - [**2188-10-30**] 03:30 PM
   Sheath - [**2188-10-30**] 03:31 PM
   Arterial Line - [**2188-10-30**] 11:00 PM
   Multi Lumen - [**2188-10-30**] 11:30 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  IV PPI
   Communication:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   Code status: Full code

2188-11-04 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents x 2 transferred
   from OSH to [**Hospital1 19**] for cardiac catheterization in setting of NSTEMI, now
   s/p cath and requiring IABP, pressors and persistent ectopy
   24 Hour Events:
   Left arterial line clotted, replaced on right
   Unable to wean off Dopamine (MAPs dropped to low 50s)
   Allergies:
   Iodine - lips and tongue
   Lipitor - leg cramps
   Zocor - Hives
   Codeine - Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2188-11-2**] 12:15 AM
   Nafcillin - [**2188-11-4**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Furosemide (Lasix) - 20 mg/hour
   Heparin Sodium - 1,300 units/hour
   Dopamine - 3 mcg/Kg/min
   Insulin - Regular - 6 units/hour
   Fentanyl - 150 mcg/hour
   Amiodarone - 0.5 mg/min
   Other medications:
   Flowsheet Data as of  [**2188-11-4**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.6
C (97.9
   HR: 77 (72 - 94) bpm
   BP: 122/41(68) {92/31(44) - 141/50(98)} mmHg
   RR: 15 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 7 (5 - 352)mmHg
   Total In:
                                                                  3,018 mL
                                                                    715 mL
   PO:
   TF:
                                                                    965 mL
                                                                    227 mL
   IVF:
                                                                  2,003 mL
                                                                    489 mL
   Blood products:
   Total out:
                                                                  5,645 mL
                                                                    895 mL
   Urine:
                                                                  5,645 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,627 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 702 (702 - 702) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 44.6 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/60/113/39/10
   Ve: 6.8 L/min
   PaO2 / FiO2: 283
   Physical Examination
   GEN: Intubated, cooperative and awake
   HEENT: unable to eval
   CV: RRR, no M
   PULM: CTA B
   ABD: soft, NT ND, +BD
   EXT: persistent but decreased edema, WWP
   Labs / Radiology
   269 K/uL
   9.6 g/dL
   147 mg/dL
   1.9 mg/dL
   39 mEq/L
   3.8 mEq/L
   83 mg/dL
   92 mEq/L
   138 mEq/L
   27.3 %
   18.0 K/uL
        [image002.jpg]
                            [**2188-11-1**]  05:57 PM
                            [**2188-11-2**]  04:12 AM
                            [**2188-11-2**]  04:36 AM
                            [**2188-11-2**]  04:52 PM
                            [**2188-11-3**]  12:00 AM
                            [**2188-11-3**]  12:16 AM
                            [**2188-11-3**]  04:50 PM
                            [**2188-11-3**]  05:06 PM
                            [**2188-11-4**]  04:08 AM
                            [**2188-11-4**]  04:30 AM
   WBC
   12.7
   18.7
   18.2
   18.0
   Hct
   23.0
   28.4
   27.4
   27.8
   27.3
   Plt
   180
   215
   231
   269
   Cr
   1.6
   1.7
   1.9
   1.9
   TropT
   3.20
   TCO2
   32
   34
   37
   37
   39
   Glucose
   114
   144
   135
   147
   Other labs: PT / PTT / INR:14.3/69.8/1.2, CK / CKMB /
   Troponin-T:340/5/3.20, Lactic Acid:0.9 mmol/L, Ca++:9.3 mg/dL, Mg++:2.3
   mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents x 2 transferred
   from OSH to [**Hospital1 19**] for cardiac catheterization in setting of NSTEMI, now
   s/p cath and requiring IABP, pressors and persistent ectopy
   .
   ARRYTHMIA:  No longer responding to lidocaine, switched to Amiodarone
   with good response, mostly sinus rhythm.
   - Getting prednisone given iodine allergy, and insulin drip
   - Will DC dopamine, likely contributing to ectopy
   .
   CARDIOGENIC SHOCK:  Improved MAP and IABP waves.
   - Will wean IABP today after pressor stopped.
   - ASA, plavix, statin, and heparin gtt
   .
   RESPIRATORY FAILURE, INTUBATED:
   -Most recent ABG acceptable
   -Patient with need to sit up for extubation but pt unable to sit up
   secondary to IABP. Will need IABP removed before able to get extubated.
   .
   EPISTAXIS: Continued bleeding by suction of post pharynx.
   - Day 5 today s/p packing by ENT, will return to repack or remove
   packing.
   - Transfused yesterday 1U, hct acceptable for now.
   - On Nafcillin for Staph  coverage while packed
   .
   VOLUME OVERLOAD: Intubated for urgent cath, continues to be fluid
   overloaded.
   - Aggressive diuresis while tolerating
   .
   DIABETES: Prednisone restarted, insulin drip continued.
   .
   ACUTE RENAL FAILURE: baseline Cr 1- 1.1 (per OSH records); currently
   stable at 1.9.  Likely from poor forward flow.
   - received mucomyst around cath. Putting out large amounts of urine to
   lasix.
   - will review meds for [**Location (un) **]-toxins, adjust doses
   - ? urine for eval
   .
   LEUKOCYTOSIS: thought to be secondary to Prednisone.
   .
   METABOLIC ALKALOSIS with resp compensation?
 [**Month (only) 51**] be secondary to
   diuresis and ? intravascular contraction
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2188-11-3**] 04:03 AM 40 mL/hour
   Glycemic Control:  Insulin drip while on Prednisone
   Lines:
   IABP line - [**2188-10-30**] 03:30 PM
   Sheath - [**2188-10-30**] 03:31 PM
   Arterial Line - [**2188-10-30**] 11:00 PM
   Multi Lumen - [**2188-10-30**] 11:30 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  IV PPI
   Communication:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   Code status: Full code
                      Active Medications [**Known lastname **],[**Known firstname **] M
                    1. Amiodarone 0.5 mg/min IV INFUSION
   9. Furosemide 5-20 mg/hr IV DRIP
   2. Aspirin 325 mg PO DAILY  Order date: [**11-2**] @ 1138
   10. Nafcillin 2 g IV Q6H  Order date: [**11-3**] @ 1334
   3. Clopidogrel 75 mg PO DAILY
   11. Pantoprazole 40 mg IV Q24H
   4. Pravastatin 80 mg PO DAILY
   12. Heparin IV per Weight-Based
   5. DOPamine 5-10 mcg/kg/min IV DRIP
   13. Heparin (IABP) 3 ml/hr IV INFUSION for IABP
   6. Chlorhexidine Gluconate 0.12% Oral Rinse
   14. Insulin 100 Units/100 ml NS IV DRIP INFUSION
   7. Fentanyl Citrate 25-100 mcg/hr IV DRIP
   15. PredniSONE 50 mg PO DAILY
   8. Midazolam 0.5-2 mg/hr IV DRIP
   16. Docusate Sodium (Liquid) 100 mg PO BID

2188-11-05 06:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   IABP removed.
   Amio stopped.  Prednisone changed to quick taper.
   Following IABP removal patient was found to have minor exsanguination.
   Pressures dropped and dopamine increased.  1 U PRBCs given.  Hemostasis
   reachieved.  Femoral U/S nl.
   Repeat Echo done.
   ENT c/s called, will come in AM to remove packing.
   Vent changed to AC to rest for extubation in AM.
   Off amio had PVC every third beat, and dopamine increased to 10 for MAP
   goal.
   Tele: PVCs increased to 30 b/min at 1PM
   Uncomfortable on vent.
   Allergies:
   Iodine; Iodine Containing
   lips and tongue
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Zocor (Oral) (Simvastatin)
   Hives;
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Nafcillin - [**2188-11-5**] 02:00 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-5**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 106 (68 - 111) bpm
   BP: 88/31(51) {83/25(48) - 112/41(72)} mmHg
   RR: 23 (8 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
    CVP: 5 (0 - 335)mmHg
   Total In:
                                                                  2,814 mL
                                                                    456 mL
   PO:
   TF:
                                                                    532 mL
   IVF:
                                                                  1,802 mL
                                                                    456 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,515 mL
                                                                    500 mL
   Urine:
                                                                  2,515 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    299 mL
                                                                    -44 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 382 (382 - 776) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   Compliance: 51.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/61/95 /37/10  @ 4AM  on PS 10/5  -> TV 400 cc and RR 15
   Ve: 8.1 L/min
   PaO2 / FiO2: 238
   Physical Examination
   GEN: Intubated, cooperative and awake, moving all 4 extremities with
   command
   HEENT: L nares packed
   CV: Trigeminal rhythm, no M audible
   PULM: CTA B, TUAS
   ABD: soft, NT ND, +BD
   EXT: persistent but decreased edema, WWP.  Trace hematoma.  Wound
   C/D/I.  Bilateral pedal pulses dopplerable
   Labs / Radiology
                                                                [**2188-11-5**]
                                                                    04:05a
   _______________________________________________________________________
   Source: Line-aline
                                     139
                               [image002.gif]
                                     95
                               [image002.gif]
                                     87
   [image004.gif]
   101
                                                                   AGap=11
   [image005.gif]
   4.1
                               [image002.gif]
                                     37
                               [image002.gif]
                                     1.8
   [image007.gif]
   CK: 392 (from 340, 144)
   MB: 2
   Ca: 9.6 Mg: 2.5 P: 4.5
   Source: Line-aline
   87
                                                                      20.1
                                                            [image007.gif]
                                    11.0
   [image004.gif]
   294
                 [image008.gif]
   [image004.gif]
                                    32.0
   [image007.gif]
   Source: [**Name (NI) 3727**]
   PT: 12.5
   PTT: 23.7
   INR: 1.1
                            [**2188-11-3**]  04:50 PM
                            [**2188-11-3**]  05:06 PM
                            [**2188-11-4**]  04:08 AM
                            [**2188-11-4**]  04:30 AM
                            [**2188-11-4**]  01:13 PM
                            [**2188-11-4**]  05:52 PM
                            [**2188-11-4**]  06:14 PM
                            [**2188-11-4**]  11:06 PM
                            [**2188-11-5**]  04:05 AM
                            [**2188-11-5**]  04:12 AM
   WBC
   18.2
   18.0
   21.5
   20.1
   Hct
   27.8
   27.3
   27.6
   30.8
   29.6
   32.0
   Plt
   [**Telephone/Fax (3) 3728**]94
   Cr
   1.9
   1.9
   1.8
   TCO2
   37
   39
   38
   40
   Glucose
   135
   147
   101
   Other labs: PT / PTT / INR:12.5/23.7/1.1, CK / CKMB /
   Troponin-T:392/2/3.20, Lactic Acid:0.9 mmol/L, Ca++:9.6 mg/dL, Mg++:2.5
   mg/dL, PO4:4.5 mg/dL
   Micro: NG
   Ultrasound: No evidence of AV fistula or pseudoaneurysm.
   ECHO: The right atrium is markedly dilated. Left ventricular wall
   thicknesses and cavity size are normal. Due to suboptimal technical
   quality, a focal wall motion abnormality cannot be fully excluded.
   Overall left ventricular systolic function is mildly depressed (LVEF=
   40 %). Right ventricular chamber size and free wall motion are normal.
   The aortic valve is not well seen. There is no aortic valve stenosis.
   Mitral valve leaflets are not well seen. Trivial mitral regurgitation
   is seen (may be underestimated due to poor technical quality). The
   pulmonary artery systolic pressure could not be determined. There is an
   anterior space which most likely represents a fat pad.
   IMPRESSION: Suboptimal image quality. Mildly depressed left ventricular
   systolic function. Preserved right ventricular function.
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents transferred from
   OSH to [**Hospital1 19**] for NSTEMI requiring intubation for urgent cath and
   requiring IABP, pressors. Now off IABP.
   .
   PUMP:  Previously in cardiogenic shock.  Mildly depressed LVEF.
   Maintaining good pressures off IABP.
   -Goal to prepare for CABG
   - Volume status: euvolemic. Continue to watch I/Os with goal even.  No
   lasix for now.
   RHYTHM:
   - Off amiodorone as not needed now off IABP.  Does have mildly
   decreased output from trigemeny but can support pressures with dopamine
   - once off pressors will need afterload reduction with ACE/[**Last Name (un) **] and BB
   to prevent ectopy.
   ISCHEMIA:
   - On ASA, Plavix, statin
   - Will ultimately need CABG and +/- MVR if regurgitation persists s/p
   stent placement.  Limited study but MR was improved on recent echo.
   .
   PULMONARY: Currently intubated, with chronic compensated CO2
   retention.  Will extubated today.
   - Ready for SBT and extubation after IABP pulled and stable.
   .
   ENT: Persistent epistaxis, with packing x 6days, now removed
   - Complete 7 days nafcillin for staph coverage.
   - Hct stable, no need for transfusion today.
   .
   ENDOCRINE: History of DM type 2 on insulin gtt.
   - Once Prednisone stopped can switch to insulin sliding scale
   .
   RENAL: baseline Cr 1- 1.1 (per OSH records); currently at 1.8.  Likely
   from aggressive diuresis.
   - Goal even today for I/O
   .
   HEMATOLOGY:  Leukocytosis thought to be secondary to Prednisone, no
   signs of infection
   .
   #. FEN: Follow and replete electrolytes. Will initiate tube feeds. No
   IVF
   #. Access: PIV x 1, Right IJ, left A line, right IABP/swan.
   #. PPx: on heparin, IV PPI
   #. Code: FULL CODE
   #. Contact:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular, Date inserted: [**2188-10-30**] Order date: [**10-31**] @ 0539
   13. Nafcillin 2 g IV Q6H  Order date: [**11-3**] @ 1334
   2. Aspirin 325 mg PO DAILY  Order date: [**11-2**] @ 1138
   14. Potassium Chloride 20 mEq / 50 ml SW IV 2X  Order date: [**11-1**] @
   0407
   3. Bisacodyl 10 mg PO DAILY:PRN  Order date: [**11-4**] @ 1653
   15. Potassium Chloride 20 mEq / 50 ml SW IV ONCE Duration: 1 Doses
   Order date: [**11-4**] @ 0957
   4. Chlorhexidine Gluconate 0.12% Oral Rinse 15 ml ORAL [**Hospital1 7**]
   Use only if patient is on mechanical ventilation.  Order date: [**10-30**] @
   1700
   16. Pravastatin 80 mg PO DAILY  Order date: [**10-30**] @ 0319
   5. Clopidogrel 75 mg PO DAILY  Order date: [**10-30**] @ 0319
   17. PredniSONE 20 mg PO QD Duration: 2 Days Start: In am Order date:
   [**11-4**] @ 1614
   6. DOPamine 5-10 mcg/kg/min IV DRIP TITRATE TO MAP >60  Order date:
   [**10-30**] @ 2212
   18. PredniSONE 10 mg PO QD Duration: 2 Days Start: After 20 mg tapered
   dose. Order date: [**11-4**] @ 1614
   7. Docusate Sodium (Liquid) 100 mg PO BID  Order date: [**11-2**] @ 1138
   19. PredniSONE 5 mg PO QD Duration: 2 Days Start: After 10 mg tapered
   dose. Order date: [**11-4**] @ 1614
   8. Fentanyl Citrate 25-100 mcg/hr IV DRIP TITRATE TO sedation  Order
   date: [**10-30**] @ 1114
   20. Senna 1 TAB PO BID:PRN  Order date: [**11-4**] @ 1653
   9. Heparin 5000 UNIT SC TID  Order date: [**11-4**] @ [**2124**]
   21. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-30**] @ 0319
   10. Insulin 100 Units/100 ml NS @ 0-10 UNIT/HR IV DRIP INFUSION
   Fingersticks every hour  Order date: [**11-4**] @ 1614
   22. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-30**] @ 0319
   11. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  Order date:
   [**11-4**] @ 1653
   23. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**10-31**] @ 0539
   12. Midazolam 0.5-2 mg/hr IV DRIP TITRATE TO sedation
   Patient must have adequate airway support prior to administration of
   dose.  Order date: [**10-30**] @ 1114

2188-11-06 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated, doing well.
   Speech and swallow: stay NPO tonight and will reeval in AM.
   CSurg consulted this AM
   Allergies:
   Iodine; Iodine Containing
   lips and tongue
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Zocor (Oral) (Simvastatin)
   Hives;
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Nafcillin - [**2188-11-6**] 02:26 AM
   Infusions:
   Dopamine - 6 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-6**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-6**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 102 (67 - 114) bpm
   BP: 116/38(65) {95/33(51) - 126/42(67)} mmHg
   RR: 23 (13 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 8 (3 - 8)mmHg
   Total In:
                                                                  1,375 mL
                                                                    322 mL
   PO:
   TF:
   IVF:
                                                                  1,375 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    430 mL
   Urine:
                                                                  1,210 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    165 mL
                                                                   -108 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 460 (413 - 460) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.40/59/104/37/8
   Ve: 12.7 L/min
   PaO2 / FiO2: 208
   Physical Examination
   GEN: cooperative and awake, moving all 4 extremities with command
   HEENT: L nares packed
   CV: Trigeminal rhythm, no M audible
   PULM: CTA B, TUAS
   ABD: soft, NT ND, +BD
   EXT: persistent but decreased edema, WWP.  Trace hematoma.  Wound
   C/D/I.  Bilateral pedal pulses dopplerable
   Labs / Radiology
   362 K/uL
   10.7 g/dL
   60 mg/dL
   1.6 mg/dL
   37 mEq/L
   3.6 mEq/L
   87 mg/dL
   95 mEq/L
   141 mEq/L
   30.7 %
   20.8 K/uL
        [image002.jpg]
                            [**2188-11-4**]  01:13 PM
                            [**2188-11-4**]  05:52 PM
                            [**2188-11-4**]  06:14 PM
                            [**2188-11-4**]  11:06 PM
                            [**2188-11-5**]  04:05 AM
                            [**2188-11-5**]  04:12 AM
                            [**2188-11-5**]  06:32 AM
                            [**2188-11-5**]  09:40 AM
                            [**2188-11-5**]  11:20 AM
                            [**2188-11-6**]  04:09 AM
   WBC
   21.5
   20.1
   20.8
   Hct
   27.6
   30.8
   29.6
   32.0
   30.7
   Plt
   [**Telephone/Fax (3) 3756**]
   Cr
   1.8
   1.6
   TCO2
   38
   40
   34
   33
   38
   Glucose
   101
   60
   Other labs: PT / PTT / INR:12.6/23.3/1.1, CK / CKMB /
   Troponin-T:392/2/3.20, Lactic Acid:0.9 mmol/L, Ca++:9.9 mg/dL, Mg++:2.6
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents transferred from
   OSH to [**Hospital1 19**] for NSTEMI requiring intubation for urgent cath and
   requiring IABP, pressors. Now off IABP.
   .
   PUMP:  Previously in cardiogenic shock.  Mildly depressed LVEF.
   Maintaining good pressures off IABP.
   - Goal to prepare for CABG.  CSurg consulted.
   - Volume status: euvolemic. Continue to watch I/Os with goal even.  No
   lasix for now.
   RHYTHM:
   - Off amiodorone as not needed now off IABP.  Does have mildly
   decreased output from trigemeny but can support pressures with dopamine
   - once off pressors will need afterload reduction with ACE/[**Last Name (un) **] and BB
   to prevent ectopy.
   ISCHEMIA:
   - On ASA, Plavix, statin
   - Will ultimately need CABG and +/- MVR if regurgitation persists s/p
   stent placement.  Limited study but MR was improved on recent echo.
   .
   PULMONARY: Currently  ________, with chronic compensated CO2 retention.
   .
   ENT: Persistent epistaxis, with packing x 6days, now removed
   - D/C Nafcillin today as 7 day course complete
   - Hct stable, no need for transfusion today.
   .
   ENDOCRINE: History of DM type 2 on insulin gtt.
   - Once Prednisone stopped can switch to insulin sliding scale
   .
   RENAL: baseline Cr 1- 1.1 (per OSH records); currently at 1.8.  Likely
   from aggressive diuresis.
   - Goal even today for I/O
   .
   HEMATOLOGY:  Leukocytosis thought to be secondary to Prednisone, no
   signs of infection
   .
   #. FEN: Follow and replete electrolytes. Will initiate tube feeds. No
   IVF
   #. Access: PIV x 1, Right IJ, left A line, right IABP/swan.
   #. PPx: on heparin, IV PPI
   #. Code: FULL CODE
   #. Contact:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   6. DOPamine 5-10 mcg/kg/min IV DRIP TITRATE TO MAP >60  Order date:
   [**10-30**] @ 2212
   12. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  Order date:
   [**11-4**] @ 1653
   9. Insulin 100 Units/100 ml NS @ 0-10 UNIT/HR IV DRIP INFUSION
   Fingersticks every hour  Order date: [**11-4**] @ 1614
   13. Nafcillin 2 g IV Q6H  Order date: [**11-3**] @ 1334
          3. Aspirin 325 mg PO DAILY  Order date: [**11-2**] @ 1138
          5. Clopidogrel 75 mg PO DAILY  Order date: [**10-30**] @ 0319
   16. PredniSONE 20 mg PO QD Duration: 2 Days Start: In am Order date:
   [**11-4**] @ 1614
   15. Pravastatin 80 mg PO DAILY  Order date: [**10-30**] @ 0319
   17. PredniSONE 10 mg PO QD Duration: 2 Days Start: After 20 mg tapered
   dose. Order date: [**11-4**] @ 1614
   18. PredniSONE 5 mg PO QD Duration: 2 Days Start: After 10 mg tapered
   dose. Order date: [**11-4**] @ 1614
          19. Senna 1 TAB PO BID:PRN  Order date: [**11-4**] @ 1653
          4. Bisacodyl 10 mg PO DAILY:PRN  Order date: [**11-4**] @ 1653
   2. Albuterol MDI 1 PUFF IH Q4H:PRN  Order date: [**11-5**] @ 0829
   7. Docusate Sodium (Liquid) 100 mg PO BID  Order date: [**11-2**] @ 1138
   11. Ipratropium Bromide MDI 2 PUFF IH QID  Order date: [**11-5**] @ 0829
   8. Heparin 5000 UNIT SC TID  Order date: [**11-4**] @ [**2124**]

2188-11-06 12:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Extubated, doing well
   Speech and swallow asked to be NPO until reeval in AM
   CSurg consulted
   S: No complaints, no pain
   Thirsty
   Tele: Ectopy, ventricular couplets, NSVT < 5bt
   Allergies:
   Iodine; Iodine Containing
   lips and tongue
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Zocor (Oral) (Simvastatin)
   Hives;
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Nafcillin - [**2188-11-6**] 09:00 AM
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-6**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-6**] 11:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 99 (67 - 109) bpm
   BP: 114/39(61) {95/33(51) - 133/49(77)} mmHg
   RR: 21 (13 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 260 (8 - 270)mmHg
   Total In:
                                                                  1,375 mL
                                                                    757 mL
   PO:
   TF:
   IVF:
                                                                  1,375 mL
                                                                    761 mL
   Blood products:
   Total out:
                                                                  1,210 mL
                                                                    780 mL
   Urine:
                                                                  1,210 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    165 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 95%
   ABG: 7.44/46/89.[**Numeric Identifier 126**]/37/5
   PaO2 / FiO2: 178
   Physical Examination
   GEN: A&Ox3 NAD
   HEENT: L nares with gauss, no blood
   CV: Irregularly irregular, no M/R/G
   PULM: CTA B
   ABD: soft, NT ND, +BD
   EXT: persistent but decreased edema, WWP.
   Labs / Radiology
   362 K/uL
   10.7 g/dL
   60 mg/dL
   1.6 mg/dL
   37 mEq/L
   3.6 mEq/L
   87 mg/dL
   95 mEq/L
   141 mEq/L
   30.7 %
   20.8 K/uL
        [image002.jpg]
                            [**2188-11-4**]  05:52 PM
                            [**2188-11-4**]  06:14 PM
                            [**2188-11-4**]  11:06 PM
                            [**2188-11-5**]  04:05 AM
                            [**2188-11-5**]  04:12 AM
                            [**2188-11-5**]  06:32 AM
                            [**2188-11-5**]  09:40 AM
                            [**2188-11-5**]  11:20 AM
                            [**2188-11-6**]  04:09 AM
                            [**2188-11-6**]  09:58 AM
   WBC
   20.1
   20.8
   Hct
   30.8
   29.6
   32.0
   30.7
   Plt
   294
   362
   Cr
   1.8
   1.6
   TCO2
   38
   40
   34
   33
   38
   32
   Glucose
   101
   60
   Other labs: PT / PTT / INR:12.6/23.3/1.1, CK / CKMB /
   Troponin-T:392/2/3.20, Lactic Acid:0.9 mmol/L, Ca++:9.9 mg/dL, Mg++:2.6
   mg/dL, PO4:4.1 mg/dL
   MRSA (+)
   B, C pending
   Sputum epis and PMLs
   No new imaging
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents transferred from
   OSH to [**Hospital1 19**] for NSTEMI requiring intubation for urgent cath and
   requiring IABP, pressors. Now off IABP.
   .
   PUMP:  Previously in cardiogenic shock.  Mildly depressed LVEF at
   40-45%.  Maintaining good pressures off IABP.
   - Goal to prepare for CABG, c-[**Doctor First Name 213**] consulted
   - may be volume down given relatively normal EF. Will attempt to
   rehydrate with 250 cc bolus up to 1 L
   - attempt to wean dopa
   .
   RHYTHM:
   - Off amiodorone as not needed now off IABP.  Does have mildly
   decreased output from trigemeny but can support pressures with
   dopamine.  If NSVT worsens, would resume amiodoeon
   - once off pressors will need afterload reduction with ACE/[**Last Name (un) **] and BB
   to prevent ectopy.
   ISCHEMIA:
   - On ASA, Plavix, statin
   - Will ultimately need CABG and +/- MVR if regurgitation persists s/p
   stent placement.  Limited study but MR was improved on recent echo.
   .
   PULMONARY: Stable post-extubation.   Has chronic compensated CO2
   retention.  On FM 50%
   - Repeat ABG today.
   .
   ENT: Persistent epistaxis, with packing x 6days, now removed
   - Complete 7 days nafcillin for staph coverage.
   - Hct stable, no need for transfusion today.
   .
   ENDOCRINE: History of DM type 2 worse on prednisone.   Home insulin 36
   U [**Hospital1 7**], but currently NPO
   - Will start 9 U [**Hospital1 7**] with sliding scale and uptitrate as needed.
   .
   RENAL: baseline Cr 1- 1.1 (per OSH records); currently at 1.8.  Likely
   from aggressive diuresis.
   - will rehydrate slightly today.
   .
   HEMATOLOGY:  Leukocytosis thought to be secondary to Prednisone, no
   signs of infection.  Cultures pending
   .
   #. FEN: Follow and replete electrolytes. Will initiate tube feeds.
   #. Access: PIV x 1, Right IJ, left A line, right IABP/swan.
   #. PPx: on heparin, IV PPI
   #. Code: FULL CODE
   #. Contact:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular, Date inserted: [**2188-10-30**] Order date: [**10-31**] @ 0539
   13. Nafcillin 2 g IV Q6H  Order date: [**11-3**] @ 1334
   2. 250 mL NS Bolus 250 ml Over 30 mins Order date: [**11-6**] @ 0814
   14. Potassium Chloride 20 mEq / 50 ml SW IV 2X  Order date: [**11-1**] @
   0407
   3. Albuterol MDI 1 PUFF IH Q4H:PRN  Order date: [**11-5**] @ 0829
   15. Potassium Chloride 40 mEq / 100 ml SW IV ONCE Duration: 1 Doses
   Order date: [**11-6**] @ 0757
   4. Aspirin 325 mg PO DAILY  Order date: [**11-2**] @ 1138
   16. Pravastatin 80 mg PO DAILY  Order date: [**10-30**] @ 0319
   5. Bisacodyl 10 mg PO DAILY:PRN  Order date: [**11-4**] @ 1653
   17. PredniSONE 20 mg PO QD Duration: 2 Days Start: In am Order date:
   [**11-4**] @ 1614
   6. Clopidogrel 75 mg PO DAILY  Order date: [**10-30**] @ 0319
   18. PredniSONE 10 mg PO QD Duration: 2 Days Start: After 20 mg tapered
   dose. Order date: [**11-4**] @ 1614
   7. DOPamine 5-10 mcg/kg/min IV DRIP TITRATE TO MAP >60  Order date:
   [**10-30**] @ 2212
   19. PredniSONE 5 mg PO QD Duration: 2 Days Start: After 10 mg tapered
   dose. Order date: [**11-4**] @ 1614
   8. Docusate Sodium (Liquid) 100 mg PO BID  Order date: [**11-2**] @ 1138
   20. Senna 1 TAB PO BID:PRN  Order date: [**11-4**] @ 1653
   9. Heparin 5000 UNIT SC TID  Order date: [**11-4**] @ [**2124**]
   21. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-30**] @ 0319
   10. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**11-6**] @ 1158
   22. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-30**] @ 0319
   11. Ipratropium Bromide MDI 2 PUFF IH QID  Order date: [**11-5**] @ 0829
   23. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**10-31**] @ 0539
   12. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  Order date:
   [**11-4**] @ 1653

2188-11-07 06:51:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   Started on Vanc for blood cx with GPC in clusters.
   Diet advanced
   Insulin gtt restarted, then stopped in AM
   Off dopa.
   S:  Feeling well, no CP, SOB.  Complains that nectar thick liquids are
   too sweet.
   Tele:  Still with <5bt NSVT, however ectopy much improved with PVC rate
   down to 0-5 BPM from 30.
   Allergies:
   Iodine; Iodine Containing
   lips and tongue
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Zocor (Oral) (Simvastatin)
   Hives;
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Nafcillin - [**2188-11-6**] 08:05 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-6**] 08:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-7**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 77 (77 - 110) bpm
   BP: 122/46(69) {97/26(47) - 135/54(84)} mmHg
   RR: 23 (16 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 6 (6 - 298)mmHg
   Total In:
                                                                  1,672 mL
                                                                    130 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,612 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                    515 mL
   Urine:
                                                                  1,800 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -128 mL
                                                                   -385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.47/56/97/35/14  today
   Physical Examination
   GEN: A&Ox3 NAD
   CV: RRR, no M/R/G
   PULM: CTA B trace crackles
   ABD: soft, NT ND, +BS
   EXT: dark fingers bilaterally, WWP.
   Labs / Radiology
   375 K/uL
   9.2 g/dL
   37 mg/dL
   1.4 mg/dL
   35 mEq/L
   3.6 mEq/L
   78 mg/dL
   100 mEq/L
   145 mEq/L
   27.1 %
   19.2 K/uL
        [image002.jpg]
                            [**2188-11-4**]  11:06 PM
                            [**2188-11-5**]  04:05 AM
                            [**2188-11-5**]  04:12 AM
                            [**2188-11-5**]  06:32 AM
                            [**2188-11-5**]  09:40 AM
                            [**2188-11-5**]  11:20 AM
                            [**2188-11-6**]  04:09 AM
                            [**2188-11-6**]  09:58 AM
                            [**2188-11-7**]  04:15 AM
                            [**2188-11-7**]  04:54 AM
   WBC
   20.1
   20.8
   19.2
   Hct
   29.6
   32.0
   30.7
   27.1
   Plt
   294
   362
   375
   Cr
   1.8
   1.6
   1.4
   TCO2
   40
   34
   33
   38
   32
   42
   Glucose
   101
   60
   37
   Other labs: PT / PTT / INR:12.6/23.7/1.1, CK / CKMB /
   Troponin-T:392/2/3.20, Lactic Acid:0.9 mmol/L, Ca++:9.4 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
[**2188-11-5**] 11:11 am BLOOD CULTURE      Source: Line-aline.
      GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents transferred from
   OSH to [**Hospital1 19**] for NSTEMI requiring intubation for urgent cath and
   requiring IABP, pressors. Now off IABP.
   .
   PUMP:  Cardiogenic shock now resolved.  Mildly depressed LVEF at
   40-45%.
   - Would consider CABG (although likely mod-high risk) or repeat cath in
   the future
   - would hydrate for hypotension
   - BP control with ACE and BB
   .
   RHYTHM:  Intermittant bigeminal rhythm with occasional NSVT.  Will
   attempt to control NSVT with electrolyte repletion and beta-blockade
   - start metoprolol today, uptitrate as tolerated
   ISCHEMIA:
   - On ASA, Plavix, statin
   - will add captopril and metoprolol today.
   .
   PULMONARY: Stable post-extubation.   Has chronic compensated CO2
   retention.   ABG with good oxygenation.  Continue to wean.
   .
   BACTERMIA: GPC in clusters in BCx.  Given recent nafcillin therapy and
   MRSA (+), likely MRSA bacteremia or skin contaminant.
   - Vanc pending speciation/coagulase positivity
   - Will pull central line once peripheral access established.
   - Echo today to r/o endocarditis.
   .
   ENDOCRINE: History of DM type 2 worse on prednisone.   Home insulin 36
   U [**Hospital1 7**], but currently NPO.  Hypoglycemic with 36 and hyperglycemic with
   24 U.
   - 24 U [**Hospital1 7**] with sliding scale and uptitrate as needed.
   .
   RENAL: baseline Cr 1- 1.1 (per OSH records);  improved, currently at
   1.4.  Likely from aggressive diuresis.
   - will rehydrate slightly today.
   .
   #. FEN: Follow and replete electrolytes.
   Diet:  Cardiac/Heart healthy , Diabetic/Consistent Carbohydrate
   Consistency: Soft (dysphagia); Nectar prethickened liquids
   #. Access: Right IJ, left A line.  Will go to PIV today and give line
   holiday.  Will likely need PICC once cultures cleared.
   #. PPx: on heparin, IV PPI
   #. Code: DNI
   #. Contact:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular, Date inserted: [**2188-10-30**] Order date: [**10-31**] @ 0539
   13. Ipratropium Bromide MDI 2 PUFF IH QID  Order date: [**11-5**] @ 0829
   2. 250 mL NS Bolus 250 ml Over 30 mins Order date: [**11-6**] @ 0814
   14. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  Order date:
   [**11-4**] @ 1653
   3. 250 mL NS Bolus 250 ml Over 30 mins Order date: [**11-6**] @ 1206
   15. Nafcillin 2 g IV Q6H  Order date: [**11-3**] @ 1334
   4. Albuterol MDI 1 PUFF IH Q4H:PRN  Order date: [**11-5**] @ 0829
   16. Potassium Chloride 20 mEq / 50 ml SW IV 2X  Order date: [**11-1**] @
   0407
   5. Aspirin 325 mg PO DAILY  Order date: [**11-2**] @ 1138
   17. Potassium Chloride 40 mEq / 100 ml SW IV ONCE Duration: 1 Doses
   Order date: [**11-6**] @ 0757
   6. Bisacodyl 10 mg PO DAILY:PRN  Order date: [**11-4**] @ 1653
   18. Potassium Chloride 40 mEq / 100 ml SW IV ONCE Duration: 1 Doses
   Order date: [**11-7**] @ 0642
   7. Clopidogrel 75 mg PO DAILY  Order date: [**10-30**] @ 0319
   19. Pravastatin 80 mg PO DAILY  Order date: [**10-30**] @ 0319
   8. DOPamine 5-10 mcg/kg/min IV DRIP TITRATE TO MAP >60  Order date:
   [**10-30**] @ 2212
   20. Senna 1 TAB PO BID:PRN  Order date: [**11-4**] @ 1653
   9. Docusate Sodium (Liquid) 100 mg PO BID  Order date: [**11-2**] @ 1138
   21. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-30**] @ 0319
   10. Heparin 5000 UNIT SC TID  Order date: [**11-4**] @ [**2124**]
   22. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-30**] @ 0319
   11. Insulin 100 Units/100 ml NS @ 0.5-5 UNIT/HR IV DRIP TITRATE TO
   Blood sugar 90-120
   Fingersticks every hour  Order date: [**11-6**] @ 1509
   23. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**10-31**] @ 0539
   12. Insulin SC  (per Insulin Flowsheet)
         Fixed Dose Order date: [**11-6**] @ 1517
   24. Vancomycin 1000 mg IV Q 24H
   ID Approval will be required for this order in 57 hours.  Order date:
   [**11-6**] @ 1641

2188-11-08 05:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2188-11-7**] 02:01 PM
   Couldn't place PIV.
   Staph -> coag neg.  TTE-> 1+ MR, suboptimal study but no veg.
   BB/ACE increased.
   Patient had large melaotic stool.  T&S, Q8 Hct, PPI, GI consulted but
   patient does not want interventions.  Transfused 1 U PRBC for HCT 25
   and falling.
   S: Nausea o/n from dinner.  No more stools.  Vomited post dinner
   without blood.  Not sleeping well in ICU.
   Tele: PVCs @ ~20/min
   EKG done at time of nausea unchaged.
   Allergies:
   Iodine; Iodine Containing
   lips and tongue
   Lipitor (Oral) (Atorvastatin Calcium)
   leg cramps;
   Zocor (Oral) (Simvastatin)
   Hives;
   Codeine
   Nausea/Vomiting
   Last dose of Antibiotics:
   Nafcillin - [**2188-11-6**] 08:05 PM
   Vancomycin - [**2188-11-7**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-11-7**] 08:53 AM
   Pantoprazole (Protonix) - [**2188-11-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-11-8**] 05:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 94 (77 - 96) bpm
   BP: 140/45(68) {94/24(52) - 154/68(73)} mmHg
   RR: 24 (16 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
           Total In:
                                                                    750 mL
                                                                    291 mL
   PO:
                                                                    420 mL
           TF:
   IVF:
                                                                    330 mL
                                                                     10 mL
   Blood products:
   281 mL
   Total out:
                                                                  1,912 mL
                                                                    375 mL
   Urine:
                                                                  1,912 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,162 mL
                                                                    -84 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   GEN: A&Ox3 NAD
   CV: RRR, no M/R/G
   PULM: CTA B trace crackles
   ABD: soft, NT ND, +BS
   EXT: dark fingers bilaterally, WWP.
   Labs / Radiology
   146
                               [image002.gif]
                                     106
                               [image002.gif]
                                     54
   [image004.gif]
   105
                                                                   AGap=10
   [image005.gif]
   3.9
                               [image002.gif]
                                     34
                               [image002.gif]
                                     1.1
   [image007.gif]
   89
                                                                      12.1
                                                            [image007.gif]
                                     9.5
   [image004.gif]
   351
                 [image008.gif]
   [image004.gif]
                                    28.0
   [image007.gif]
   Ca: 9.4 Mg: 2.2 P: 2.2
                            [**2188-11-5**]  04:12 AM
                            [**2188-11-5**]  06:32 AM
                            [**2188-11-5**]  09:40 AM
                            [**2188-11-5**]  11:20 AM
                            [**2188-11-6**]  04:09 AM
                            [**2188-11-6**]  09:58 AM
                            [**2188-11-7**]  04:15 AM
                            [**2188-11-7**]  04:54 AM
                            [**2188-11-7**]  02:57 PM
                            [**2188-11-7**]  11:43 PM
   WBC
   20.8
   19.2
   Hct
   30.7
   27.1
   26.5
   25.0
   Plt
   362
   375
   Cr
   1.6
   1.4
   TCO2
   40
   34
   33
   38
   32
   42
   Glucose
   60
   37
   Other labs: PT / PTT / INR:12.6/23.7/1.1, CK / CKMB /
   Troponin-T:392/2/3.20, Lactic Acid:0.9 mmol/L, Ca++:9.4 mg/dL, Mg++:2.4
   mg/dL, PO4:3.5 mg/dL
Micro:  [**2188-11-5**] 11:11 am BLOOD CULTURE      Source: Line-aline.
   Blood Culture, Routine (Preliminary):
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE SET ONLY.
Echo: The left atrium is mildly dilated. There is mild symmetric left ventricula
r hypertrophy. The left ventricular cavity size is normal. Due to suboptimal tec
hnical quality, a focal wall motion abnormality cannot be fully excluded. Overal
l left ventricular systolic function cannot be reliably assessed. There are foca
l calcifications in the aortic arch. The aortic valve is not well seen. The mitr
[**Doctor Last Name **] valve leaflets are mildly thickened. There is no mitral valve prolapse. No ma
sses or vegetations are seen on the mitral valve, but cannot be fully excluded d
ue to suboptimal image quality. Mild (1+) mitral regurgitation is seen. There is
 no pericardial effusion.
Compared with the findings of the prior study (images reviewed) of [**11-4**], the technically suboptimal nature of both studies precludes definitive comp
arison
If clinically indicated, a transesophageal echocardiographic examination is reco
mmended.
IMPRESSION: very suboptimal image quality; endocarditis cannot be excluded on th
e basis of this study
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents transferred from
   OSH to [**Hospital1 19**] for NSTEMI requiring intubation for urgent cath and
   requiring IABP, pressors. Now off IABP and pressors.
    .
   GI BLEED:  Had episode of [**Doctor First Name 3809**] with falling Hct.  Patient refuses
   endoscopy.
   - Type&Cross, IV access, [**Hospital1 7**] PPI
   - [**Hospital1 7**] Hct, and transfuse to keep Hct > 27.
   - Monitor for further bleeding
   - Appreciate GI recs
   .
   BACTERMIA: Coag (-) staph in isolated sample, very likely to be a
   contaminant.  Echo without evidence of vegetation.  Patient unlikely to
   tolerate TEE.
   - Follow remaining cultures.
   - D/C Vanc
   .
   PUMP:  Cardiogenic shock now resolved.  Mildly depressed LVEF at
   40-45%.  Patient autodiuresing, suggesting further recovery of pump
   function
   - Would consider CABG (although likely mod-high risk) or repeat cath in
   the future, f/[**Initials (NamePattern4) 3810**] [**Doctor First Name **] recs.  Patient currently hesitant about further
   procedures.
   - would hydrate for hypotension
   - BP control with ACE and BB
   .
   RHYTHM:  Intermittant bigeminal rhythm with occasional NSVT.  Will
   attempt to control NSVT with electrolyte repletion and beta-blockade
   - metoprolol
   ISCHEMIA:
   - On ASA, Plavix, statin, captopril and metoprolol.
   .
   PULMONARY: Stable post-extubation.   Has chronic compensated CO2
   retention.   ABG with good oxygenation.  Continue to wean.
   .
   ENDOCRINE: History of DM type 2 worse on prednisone.   Home insulin 36
   U [**Hospital1 7**], but currently NPO.  Hypoglycemic with 36 and hyperglycemic with
   18 U.
   - 24 U [**Hospital1 7**] with sliding scale and uptitrate as needed.
   .
   RENAL: baseline Cr 1- 1.1 (per OSH records);  improved, currently at
   1.4.  Likely from aggressive diuresis.
   - will rehydrate slightly today.
   .
   #. FEN: Follow and replete electrolytes.
   #. Diet:  Cardiac/Heart healthy , Diabetic/Consistent Carbohydrate
   Consistency: Soft (dysphagia); Nectar prethickened liquids
   #. Access: Right IJ, left A line.  D/C A-line today.  Would like to get
   PIV, but may need PICC or midline for access in house
   #. PPx: on heparin, IV PPI
   #. Code: DNI
   #. Contact:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular, Date inserted: [**2188-10-30**] Order date: [**10-31**] @ 0539
   11. Ipratropium Bromide MDI 2 PUFF IH QID  Order date: [**11-5**] @ 0829
   2. Albuterol MDI 1 PUFF IH Q4H:PRN  Order date: [**11-5**] @ 0829
   12. Metoprolol Tartrate 25 mg PO BID
   hold for MAP < 65, hr <50  Order date: [**11-7**] @ 1220
   3. Aspirin 325 mg PO DAILY  Order date: [**11-2**] @ 1138
   13. Miconazole Powder 2% 1 Appl TP PRN Duration: 5 Days Order date:
   [**11-7**] @ 1823
   4. Bisacodyl 10 mg PO DAILY:PRN  Order date: [**11-4**] @ 1653
   14. Pantoprazole 40 mg IV Q12H  Order date: [**11-7**] @ 1424
   5. Captopril 12.5 mg PO TID
   hold for MAP < 65  Order date: [**11-7**] @ 1220
   15. Potassium Chloride 20 mEq / 50 ml SW IV 2X  Order date: [**11-1**] @
   0407
   6. Clopidogrel 75 mg PO DAILY  Order date: [**10-30**] @ 0319
   16. Pravastatin 80 mg PO DAILY  Order date: [**10-30**] @ 0319
   7. Docusate Sodium (Liquid) 100 mg PO BID:PRN  Order date: [**11-8**] @ 0913
   17. Senna 1 TAB PO BID:PRN  Order date: [**11-4**] @ 1653
   8. Heparin 5000 UNIT SC TID  Order date: [**11-8**] @ 0904
   18. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-30**] @ 0319
   9. IV access request: PICC Evaluate, Place Indication: Antibiotics
   Urgency: Routine Order date: [**11-8**] @ 0904
   19. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-30**] @ 0319
   10. Insulin SC  (per Insulin Flowsheet)
         Sliding Scale & Fixed Dose Order date: [**11-7**] @ 1141
   20. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**10-31**] @ 0539

2188-11-09 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents
   transferred from OSH to [**Hospital1 19**] for NSTEMI requiring intubation for
   urgent cath and requiring IABP, pressors. Now extubated, off IABP and
   pressors.
   24 Hour Events:
 MULTI LUMEN - STOP [**2188-11-8**] 04:30 PM
   Allergies:
   Iodine; Iodine Containing- lips and tongue
   Lipitor -leg cramps;
   Zocor (Oral) (Simvastatin)-Hives;
   Codeine -Nausea/Vomiting
   Last dose of Antibiotics:
   Nafcillin - [**2188-11-6**] 08:05 PM
   Vancomycin - [**2188-11-7**] 09:00 AM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2188-11-9**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2188-11-9**] 12:00 AM
   Other medications:
   Flowsheet Data as of  [**2188-11-9**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 83 (77 - 101) bpm
   BP: 132/45(69) {91/18(36) - 132/95(102)} mmHg
   RR: 20 (16 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    715 mL
                                                                    110 mL
   PO:
                                                                    330 mL
                                                                    100 mL
   TF:
   IVF:
                                                                     10 mL
                                                                     10 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,655 mL
                                                                    315 mL
   Urine:
                                                                  1,655 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -940 mL
                                                                   -205 mL
   Physical Examination
   GEN: A&Ox3 NAD
   CV: RRR, no M/R/G
   PULM: CTA B trace crackles
   ABD: soft, NT ND, +BS
   EXT: dark fingers bilaterally, WWP.
   Labs / Radiology
   418 K/uL
   9.7 g/dL
   94 mg/dL
   1.2 mg/dL
   32 mEq/L
   4.3 mEq/L
   44 mg/dL
   107 mEq/L
   146 mEq/L
   28.1 %
   11.2 K/uL
        [image002.jpg]
                            [**2188-11-5**]  11:20 AM
                            [**2188-11-6**]  04:09 AM
                            [**2188-11-6**]  09:58 AM
                            [**2188-11-7**]  04:15 AM
                            [**2188-11-7**]  04:54 AM
                            [**2188-11-7**]  02:57 PM
                            [**2188-11-7**]  11:43 PM
                            [**2188-11-8**]  06:30 AM
                            [**2188-11-8**]  04:35 PM
                            [**2188-11-9**]  04:09 AM
   WBC
   20.8
   19.2
   12.1
   11.2
   Hct
   30.7
   27.1
   26.5
   25.0
   28.0
   28.7
   28.1
   Plt
   362
   375
   351
   418
   Cr
   1.6
   1.4
   1.1
   1.2
   TCO2
   38
   32
   42
   Glucose
   60
   37
   105
   94
   Other labs: PT / PTT / INR:13.4/30.8/1.1, CK / CKMB /
   Troponin-T:392/2/3.20, Lactic Acid:0.9 mmol/L, Ca++:9.4 mg/dL, Mg++:2.2
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   72 yo f w/ h/o HTN, DMt2, PVD, CAD s/p MI and stents transferred from
   OSH to [**Hospital1 19**] for NSTEMI requiring intubation for urgent cath and
   requiring IABP, pressors. Now off IABP and pressors.
    .
   GI BLEED:  Had episode of [**Doctor First Name 3809**] with falling Hct.  Patient refuses
   endoscopy.
   - Type&Cross, IV access, [**Hospital1 7**] PPI
   - [**Hospital1 7**] Hct, and transfuse to keep Hct > 27.
   - Monitor for further bleeding
   - Appreciate GI recs
   .
   BACTERMIA: Coag (-) staph in isolated sample, very likely to be a
   contaminant.  Echo without evidence of vegetation.  Patient unlikely to
   tolerate TEE.
   - Follow remaining cultures.
   - D/C Vanc
   .
   PUMP:  Cardiogenic shock now resolved.  Mildly depressed LVEF at
   40-45%.  Patient autodiuresing, suggesting further recovery of pump
   function
   - Would consider CABG (although likely mod-high risk) or repeat cath in
   the future, f/[**Initials (NamePattern4) 3810**] [**Doctor First Name **] recs.  Patient currently hesitant about further
   procedures.
   - would hydrate for hypotension
   - BP control with ACE and BB
   .
   RHYTHM:  Intermittant bigeminal rhythm with occasional NSVT.  Will
   attempt to control NSVT with electrolyte repletion and beta-blockade
   - metoprolol
   ISCHEMIA:
   - On ASA, Plavix, statin, captopril and metoprolol.
   .
   PULMONARY: Stable post-extubation.   Has chronic compensated CO2
   retention.   ABG with good oxygenation.  Continue to wean.
   .
   ENDOCRINE: History of DM type 2 worse on prednisone.   Home insulin 36
   U [**Hospital1 7**], but currently NPO.  Hypoglycemic with 36 and hyperglycemic with
   18 U.
   - 24 U [**Hospital1 7**] with sliding scale and uptitrate as needed.
   .
   RENAL: baseline Cr 1- 1.1 (per OSH records);  improved, currently at
   1.4.  Likely from aggressive diuresis.
   - will rehydrate slightly today.
   .
   #. FEN: Follow and replete electrolytes. No IVF,  Cardiac/Heart healthy
   , Diabetic/Consistent Carbohydrate Consistency: Soft (dysphagia);
   Nectar prethickened liquids
   #. Access: PIV line placed, CVL removed.
   #. PPx: heparin SC, IV PPI
   #. Code: DNI (but not DNR) will rediscuss with pt
   #. Contact:  son [**Name (NI) 209**] [**Name (NI) 2843**] [**Telephone/Fax (1) 3587**] (H) [**Telephone/Fax (1) 3588**] (C)
   #. Dispo: to floor.
                      Active Medications [**Known lastname **],[**Known firstname **] M
                         1. Aspirin 325 mg PO DAILY
   8. Pantoprazole 40 mg IV Q12H
   2. Metoprolol Tartrate 25 mg PO BID
   9. Albuterol MDI 1 PUFF IH Q4H:PRN
   3. Captopril 12.5 mg PO TID
   10. Ipratropium Bromide MDI 2 PUFF IH QID
   4. Clopidogrel 75 mg PO DAILY
   11. Miconazole Powder 2% 1 Appl TP PRN
   5. Pravastatin 80 mg PO DAILY
   12. Senna 1 TAB PO BID:PRN
   6. Heparin 5000 UNIT SC TID
   13. Bisacodyl 10 mg PO DAILY:PRN
   7. Insulin SC  (per Insulin Flowsheet)
   14. Docusate (Liquid) 100mg PO BID:PRN